US04518713
A solution of 3.75 g (6.38 mmol) of 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(4-trifluoromethylphenoxy)piperidine dihydrochloride, 55 ml of methanol, and 22.5 ml of 3N HCl was heated at reflux under nitrogen for 3 hours. The reaction mixture was allowed to cool to room temperature and was subsequently neutralized with sodium bicarbonate. The methanol was evaporated and the residue made basic with sodium carbonate. The mixture was extracted with ether, washed with saturated sodium chloride and dried over potassium carbonate. Filtration followed by evaporation of the solvent provided an oil. The dihydrochloride was recrystallized from acetonitrile to provide 1.75 g (50%) of 1-{2-{N-[4-(4-fluorophenyl)-4-oxobutyl]-N-methylamino}ethyl}-4-(4-trifluoromethyl-phenoxy)piperidine dihydrochloride.

reactant | 1-{2-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(4-trifluoromethylphenoxy)piperidine dihydrochloride | 6.38 mmol, 3.75 g | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F
reactant | HCl | 3N, 22.5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 55 ml | CO | CH4O
product | 1-{2-{N-[4-(4-fluorophenyl)-4-oxobutyl]-N-methylamino}ethyl}-4-(4-trifluoromethyl-phenoxy)piperidine dihydrochloride | 1.75 g, 50% | Cl.Cl.FC1=CC=C(C=C1)C(CCCN(C)CCN1CCC(CC1)OC1=CC=C(C=C1)C(F)(F)F)=O | InChI=1S/C25H30F4N2O2.2ClH/c1-30(14-2-3-24(32)19-4-8-21(26)9-5-19)17-18-31-15-12-23(13-16-31)33-22-10-6-20(7-11-22)25(27,28)29;;/h4-11,23H,2-3,12-18H2,1H3;2*1H
